US05210092
2-Butyl-3-[4-[5-chloro-2-(1-trityl-1H-tetrazol-5-yl)-3-thienyl]benzyl]-3H-imidazo[4,5-b]pyridine (1.02 g) was dissolved in 1,4-dioxane (10 ml) and treated with 1N hydrochloric acid at ambient temperature for 10 hours. The reaction mixture was neutralized with 1N aqueous sodium hydroxide and concentrated in vacuo. The residue was extracted with dichloromethane-methanol (4:1) and the extract was evaporated in vacuo. The residue was purified by silica gel column chromatography to afford 2-butyl-3-[4-[5-chloro-2-(1H-tetrazol-5-yl)-3-thienyl]benzyl]-3H-imidazo[4,5-b]pyridine (640 mg).

reactant | 2-Butyl-3-[4-[5-chloro-2-(1-trityl-1H-tetrazol-5-yl)-3-thienyl]benzyl]-3H-imidazo[4,5-b]pyridine | 1.02 g | C(CCC)C1=NC=2C(=NC=CC2)N1CC1=CC=C(C=C1)C1=C(SC(=C1)Cl)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H34ClN7S
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-butyl-3-[4-[5-chloro-2-(1H-tetrazol-5-yl)-3-thienyl]benzyl]-3H-imidazo[4,5-b]pyridine | 640 mg | C(CCC)C1=NC=2C(=NC=CC2)N1CC1=CC=C(C=C1)C1=C(SC(=C1)Cl)C1=NN=NN1 | C22H20ClN7S
